US08912200B2
Step 1: 4-Iodo-3-methoxy-phenylamine
1-Iodo-2-methoxy-4-nitro-benzene (6.01 g, 21.54 mmol) in absolute ethanol (127 mL) was cooled with an ice bath and treated with SnCl2 (18.83 g, 99.31 mmol). The bath was removed and the mixture was stirred at room temperature for 4 h then poured into ice (300 mL), stirred and treated carefully with saturated aqueous sodium bicarbonate (250 mL) (pH 7-8). The solid was filtered with suction and the panel washed thoroughly with EtOAc (500 mL and 4×200 mL). The aqueous layer was separated, dried over sodium sulphate and evaporated. Purification of the crude by flash chromatography on silica gel (hexane/EtOAc 1/1) furnished the title compound (3.17 g, 59%).

reactant | 1-Iodo-2-methoxy-4-nitro-benzene | 21.54 mmol, 6.01 g | IC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6INO3
reactant | SnCl2 | 99.31 mmol, 18.83 g | Cl[Sn]Cl
solvent | ethanol | 127 mL | C(C)O | C2H6O
product | 4-Iodo-3-methoxy-phenylamine | 3.17 g, 59% | IC1=C(C=C(C=C1)N)OC | C7H8INO
